US07410966B2
6-Bromo-2-[4-(oxiran-2-ylmethoxy)phenyl]-3H-imidazo[4,5-b]pyridine
4-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenol (2 g, 6.89 mmol) was dissolved in DMF (200 ml) and sodium hydride (0.9 g, 20.67 mmol, 55% in oil) was added. The mixture was stirred at 50° C. for 1 h, and epibromohydrin (0.94 ml, 11.37 mmol) was added dropwise followed by stirring for one h at room temperature. Purification by flash chromatography on silica using ethyl acetate/heptane as eluent afforded the title compound (0.55 g, 23%).

reactant | 4-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenol | 6.89 mmol, 2 g | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)O | C12H8BrN3O
reactant | sodium hydride | 20.67 mmol, 0.9 g | [H-].[Na+]
reactant | epibromohydrin | 11.37 mmol, 0.94 ml | C(Br)C1CO1 | C3H5BrO
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 6-Bromo-2-[4-(oxiran-2-ylmethoxy)phenyl]-3H-imidazo[4,5-b]pyridine | 0.55 g, 23% | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)OCC2OC2 | C15H12BrN3O2
